US08877934B2
Step C: (E)-N-[2-[(2-Methoxy-4-quinolyl-amino]ethyl]hex-2-enamide
N-(2-Methoxy-4-quinolyl)ethane-1,2-diamine (21.7 mg, 0.1 mmol) was dissolved in anhydrous dichloromethane (1 ml) together with triethylamine (17.4 μl, 0.125 mmol). (E)-hex-2-enoyl chloride (16.6 mg, 0.125 mmol) was added and the mixture was shaken for 10 minutes, diluted with dichloromethane and washed with 10% sodium bicarbonate solution (2 times), water and evaporated to dryness under reduced pressure. The resulting residue was purified by preparative HPLC (gradient of water containing 0.1% NH3 and acetonitrile) to yield 3.4 mg (0.0109 mmol, 11%).

reactant | N-(2-Methoxy-4-quinolyl)ethane-1,2-diamine | 0.1 mmol, 21.7 mg | COC1=NC2=CC=CC=C2C(=C1)NCCN | C12H15N3O
reactant | triethylamine | 0.125 mmol, 17.4 μl | C(C)N(CC)CC | C6H15N
reactant | (E)-hex-2-enoyl chloride | 0.125 mmol, 16.6 mg | C(\C=C\CCC)(=O)Cl | C6H9ClO
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2-[(2-Methoxy-4-quinolyl-amino]ethyl]hex-2-enamide | COC1=NC2=CC=CC=C2C(=C1)NCCC(C(=O)N)=CCCC | C18H23N3O2
